US07977331B1
To a solution of tert-butyl (R)-3-methoxymethylpiperidine-1-carboxylate (13.00 g, 56.6 mmol) in ethyl acetate (26 ml) was added 4N HCl-ethyl acetate solution (26 ml), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure to give (R)-3-methoxymethylpiperidine hydrochloride as a crude product. A mixed solvent (100 ml) of hexane:ethyl acetate=1:4 was added to the obtained solid, and the mixture was stirred. The solid was collected by filtration to give (R)-3-methoxymethylpiperidine hydrochloride (7.82 g, yield 84%).

reactant | tert-butyl (R)-3-methoxymethylpiperidine-1-carboxylate | 56.6 mmol, 13.00 g | COC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C12H23NO3
reactant | HCl ethyl acetate | 4N, 26 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-methoxymethylpiperidine hydrochloride | Cl.COC[C@H]1CNCCC1 | InChI=1S/C7H15NO.ClH/c1-9-6-7-3-2-4-8-5-7;/h7-8H,2-6H2,1H3;1H/t7-;/m1./s1
